US07910595B2
4-(4-Hydroxy-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid
To a suspension of 4-(4-hydroxy-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid methyl ester (0.50 g, 1.1 mmol) in THF (5 mL) was added aqueous LiOH [prepared from LiOH monohydrate (0.15 g) and H2O (1.5 mL)] dropwise at room temperature. The mixture was stirred at room temperature for 24 hours. Additional aqueous LiOH [prepared from LiOH monohydrate (0.15 g) and H2O (1.5 mL)] was added at room temperature. The mixture was mixture was stirred at room temperature for 23 hours, and then evaporated. The aqueous mixture was diluted with 50 mL of H2O, washed with AcOEt, and treated with active charcoal. The mixture was filtered and the filtrate was carefully acidified to pH 4-5 with 10% HCl under stirring. The resulting solid was collected by filtration, washed with H2O, and dried at 40° C. for 3 days under reduced pressure to give the title compound as pale yellow crystal (0.35 g, 73%). 1H-NMR (300 MHz, DMSO-d6) δ ppm: 1.33 (d, J=7.0 Hz, 6H), 3.22 (septet, J=7.0 Hz, 1H), 6.81-6.90 (m, 1H), 6.85 (d, J=8.5 Hz, 2H), 7.30 (d, J=8.5 Hz, 2H), 7.63 (br-d, J=8.4 Hz, 1H), 7.73 (br-d, J=8.1 Hz, 1H), 7.85 (br-s, 1H), 8.57 (s, 1H), 8.86 (d, J=8.4 Hz, 1H), 10.14 (s, 1H).

reactant | 4-(4-hydroxy-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid methyl ester | 1.1 mmol, 0.50 g | COC(C1=CC(=C(C=C1)SC1=CC=C(C=C1)O)NC=1C2=C(N=CN1)N=C(C=C2)C(C)C)=O | C24H22N4O3S
reactant | LiOH | 1.5 mL, 0.15 g | [Li+].[OH-]
reactant | LiOH | 1.5 mL, 0.15 g | [Li+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(4-Hydroxy-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid | 0.35 g, 73% | OC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1)NC=1C2=C(N=CN1)N=C(C=C2)C(C)C | C23H20N4O3S
